US07528136B2
a) (2S,4R)-1-(3-Chloro-benzyl)-4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester
Chloro-3-chloromethyl-benzene (15.2 ml, 120 mmol) was added to the mixture of 4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride (14.5 g, 80 mmol) and triethylamine (18.6 g, 180 mmol) in dichloromethane (120 ml). The reaction mixture was refluxed overnight. After cooling, 1M aqueous sodium hydroxide was added, and the mixture was extracted with dichloromethane. The extract was washed with brine, dried over sodium sulfate, concentrated and purified by chromatography on silica gel (hex/EA=5:1 to hex/EA=31) to give 14 g title product as yellow oil in 65% yield.

reactant | Chloro-3-chloromethyl-benzene | 120 mmol, 15.2 ml | ClC1=CC(=CC=C1)CCl | C7H6Cl2
reactant | 4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | 80 mmol, 14.5 g | Cl.COC(=O)C1NCC(C1)O
reactant | triethylamine | 180 mmol, 18.6 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-(3-Chloro-benzyl)-4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester | 14 g, 65% yield | COC(=O)[C@H]1N(C[C@@H](C1)O)CC1=CC(=CC=C1)Cl | C13H16ClNO3
